US07417060B2
To a solution of methyl 4′-[3-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]propyl]-3-(cyclohexyloxy)-4-biphenylcarboxylate (147 mg) in methanol (2.94 ml) was added 1N sodium hydroxide (0.5 ml) and the mixture was stirred at room temperature for 18 hours, at which time the starting material was still remained. The mixture was warmed to 50° C. and stirred for 3 hours, at which time the reaction was complete. After cooling to room temperature, the mixture was quenched by the addition of 1N hydrochloric acid (0.5 ml) and diluted with ethyl acetate (10 ml). The mixture was with water (10 ml×2) and brine (10 ml), and dried over magnesium sulfate. Filtration followed by evaporation gave 4′[3-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]propyl]-3-(cyclohexyloxy)-4-biphenylcarboxylic acid (141 mg) as a pale yellow solid.

reactant | methyl 4′-[3-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]propyl]-3-(cyclohexyloxy)-4-biphenylcarboxylate | 147 mg | C(C)(C)(C)OC(=O)N(CCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)OC1CCCCC1)C[C@@H](C1=CC=CC=C1)O | C36H45NO6
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
solvent | methanol | 2.94 ml | CO | CH4O
product | 4′[3-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]propyl]-3-(cyclohexyloxy)-4-biphenylcarboxylic acid | 141 mg | C(C)(C)(C)OC(=O)N(CCCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)O)OC1CCCCC1)C[C@@H](C1=CC=CC=C1)O | C35H43NO6
